US07582651B2
To a solution of 2-amino-1-(indan-1-yl)pyrrole-4-carbonitrile (19.4 g), acetylacetone (9.6 g) and ethanol (375 ml) was added concentrated hydrochloric acid (3 ml), and the mixture was heated under reflux for 3 hours. The reaction solution was concentrated under reduced pressure and an aqueous sodium hydrogen carbonate solution was added to the residue, which was extracted with ethyl acetate. After the organic layer was washed with water and dried (MgSO4), the solvent was distilled off under reduced pressure and the crystal was collected by filtration to give 1-(indan-1-yl)-4,6-dimethyl-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile (11.4 g, 46%).

reactant | 2-amino-1-(indan-1-yl)pyrrole-4-carbonitrile | 19.4 g | NC=1N(C=C(C1)C#N)C1CCC2=CC=CC=C12 | C14H13N3
reactant | acetylacetone | 9.6 g | C(C)(=O)CC(C)=O | C5H8O2
reactant | hydrochloric acid | 3 ml | Cl | ClH
solvent | ethanol | 375 ml | C(C)O | C2H6O
product | 1-(indan-1-yl)-4,6-dimethyl-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile | 11.4 g, 46% | C1(CCC2=CC=CC=C12)N1C=C(C=2C1=NC(=CC2C)C)C#N | C19H17N3
